US06150352
(3,5-dimethylphenyl)acetyl chloride
To a solution of (3,5-dimethylphenyl)acetic acid (2.32 g in 25 mL dry methylene chloride) at 0° C. was added 0.055 mL N,N-dimethylformamide followed by the dropwise addition of 1.3 mL of oxalyl chloride. After 15 minutes the mixture was warmed to room temperature and stiffed for an additional 2 hours. Removal of the solvents in vacuo provided the title compound which was used without purification.

reactant | (3,5-dimethylphenyl)acetic acid | 25 mL, 2.32 g | CC=1C=C(C=C(C1)C)CC(=O)O | C10H12O2
reactant | oxalyl chloride | 1.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | 0.055 mL | CN(C=O)C | C3H7NO
product | (3,5-dimethylphenyl)acetyl chloride | CC=1C=C(C=C(C1)C)CC(=O)Cl | C10H11ClO
